US06680313B2
b) 2-(Tri-n-butylstannyl)-7-trifluoromethylthioimidazo[5,1-b]thiazole
7-Trifluoromethylthioimidazo[5,1-b]thiazole (590 mg) was dissolved in 10 ml of THF under an argon atmosphere, and the solution was cooled to −65° C. Tri-n-butylstannyl chloride (2.07 ml) and 7.2 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added dropwise in that order to the cooled solution. The temperature of the mixture was raised to −40° C. over a period of 30 min. Ethyl acetate (40 ml) was added to the reaction solution, and the mixture was washed with 40 ml of brine. The organic layer was dried over anhydrous magnesium sulfate, and was then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to prepare 951 mg of the title compound.

reactant | 7-Trifluoromethylthioimidazo[5,1-b]thiazole | 590 mg | FC(SC=1N=CN2C1SC=C2)(F)F | C6H3F3N2S2
reactant | Tri-n-butylstannyl chloride | 2.07 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(Tri-n-butylstannyl)-7-trifluoromethylthioimidazo[5,1-b]thiazole | C(CCC)[Sn](C1=CN2C(S1)=C(N=C2)SC(F)(F)F)(CCCC)CCCC | InChI=1S/C6H2F3N2S2.3C4H9.Sn/c7-6(8,9)13-4-5-11(3-10-4)1-2-12-5;3*1-3-4-2;/h1,3H;3*1,3-4H2,2H3;
